US04258187
A solution of 14.70 g (0.053 mole) of 2-amino-5-bromobenzophenone and 6.0 g (0.21 mole) of methyl isocyanate in 75 ml of methylene chloride was refluxed for two days and then cooled. The solid portion of the reaction mixture was collected on a filter and washed with methylene chloride to give 16.18 g (90% yield) of 6-bromo-3,4-dihydro-4-hydroxy-3-methyl-4-phenyl-2(1H)-quinazolinone as a white crystalline powder: mp 293°-294° (dec.).

reactant | 2-amino-5-bromobenzophenone | 0.053 mole, 14.70 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Br | C13H10BrNO
reactant | methyl isocyanate | 0.21 mole, 6.0 g | CN=C=O | C2H3NO
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 6-bromo-3,4-dihydro-4-hydroxy-3-methyl-4-phenyl-2(1H)-quinazolinone | 16.18 g, 90% yield | BrC=1C=C2C(N(C(NC2=CC1)=O)C)(C1=CC=CC=C1)O | C15H13BrN2O2
